US05403908
Under a stream of an inert gas with agitation, a drop of 1,2-dibromoethane was added to a diethyl ether (100 ml) solution of 1.70 g (0.07 mole) of granular metallic magnesium and the Grignard reagent reaction was started by heating. The liquid temperature was increased up to refluxing and then a diethyl ether (70 ml) solution of 8.61 ml (0.07 mole) of p-bromotoluene was gradually added dropwise taking 30 minutes. After completion of the dropwise addition, it was kept standing under reflux for 1 hour. The reaction solution was cooled to room temperature and it was added dropwise, at room temperature, to a diethyl ether (100 ml) solution of 6.54 ml (0.05 mole) of p-bromo-styrene and 0.32 g (0.6 mmole) of a nickel chloride-(1,3-diphenyl phosphino propane) complex. After completion of the dropwise addition, refluxing was continued for 4 hours. The reaction solution was poured into 500 ml of ice water and the pH was adjusted to be weakly acidic. Extraction was made with hexane and, through purification by washing, drying, removal of the solvent by distillation and silica gel column chromatography, 7.28 g (yield 75%) of 4-vinyl-4'-methyl biphenyl were obtained.

reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | magnesium | 0.07 mole, 1.70 g | [Mg] | Mg
reactant | p-bromotoluene | 0.07 mole, 8.61 ml | BrC1=CC=C(C=C1)C | C7H7Br
reactant | p-bromo-styrene | 0.05 mole, 6.54 ml | BrC1=CC=C(C=C)C=C1 | C8H7Br
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-vinyl-4'-methyl biphenyl | 7.28 g, yield 75% | C(=C)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C15H14
